US04645794
Crystalline 2,3-epoxypropyltrimethylammonium chloride
A one-liter flask equipped with gas sparger, mechanical stirrer, thermometer and an aqueous acid trap was charged with epichlorohydrin (55.2 grams, 6.0 mol) and placed in an isothermal bath at 19° C. Trimethylamine gas (119.5 grams, 2.0 mol) was then sparged into the epichlorohydrin over a period of 3 hours. The temperature was maintained below 23° C. The solution was stirred for an additional 30 minutes and the precipitate collected by filtration. The crystalline product was washed with diethylether and vacuum dried to afford 262.2 grams of 2,3-epoxypropyltrimethylammonium chloride.

reactant | epichlorohydrin | 6.0 mol, 55.2 grams | C(Cl)C1CO1 | C3H5ClO
reactant | Trimethylamine | 2.0 mol, 119.5 grams | CN(C)C | C3H9N
product | 2,3-epoxypropyltrimethylammonium chloride | [Cl-].O1C(C[N+](C)(C)C)C1 | InChI=1S/C6H14NO.ClH/c1-7(2,3)4-6-5-8-6;/h6H,4-5H2,1-3H3;1H/q+1;/p-1
